US06090817
a) 4-(4-Methoxyphenyl)pyridine
A solution of 4-methoxyphenylmagnesium bromide, prepared from 4-bromoanisole (150 g 0.80 mol) and magnesium (20 g, 0.83 mol) in dry tetrahydrofuran (300 mL) is filtered, cooled to -10° C. and added cautiously to a stirred mixture of bis-(triphenylphosphine)nickel (II) chloride (1.5 g, 2.25 mmol) and 4-bromopyridine hydrochloride (65 g, 0.334 mol) in dry tetrahydrofuran (300 mL) at 10° C. under an argon atmosphere. After 50% of the Grignard reagent had been added a vigorous, exothermic reaction sets in and the temperature of the mixture is maintained between 50 and 60° C. throughout the rest of the addition by employing an ice-methanol cooling bath. When the addition is complete the mixture is stirred for 60 min at 50° C. The solvent is evaporated off under reduced pressure to yield a residue which is treated with t-butylmethylether (500 mL) and extracted with hydrochloric acid (3×300 mL of 5M). The combined extracts are washed (t-butylmethylether), basified (aqueous NaOH) and extracted with

reactant | 4-methoxyphenylmagnesium bromide | COC1=CC=C(C=C1)[Mg]Br
reactant | 4-bromoanisole | 0.80 mol, 150 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | magnesium | 0.83 mol, 20 g | [Mg] | Mg
reactant | 4-bromopyridine hydrochloride | 0.334 mol, 65 g | Cl.BrC1=CC=NC=C1
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
catalyst | bis-(triphenylphosphine)nickel (II) chloride | 2.25 mmol, 1.5 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Cl-].[Ni+2]
solvent | t-butylmethylether | 500 mL | C(C)(C)(C)OC | C5H12O
product | 4-(4-Methoxyphenyl)pyridine | COC1=CC=C(C=C1)C1=CC=NC=C1 | C12H11NO
